US04686237
Methyl 1-methoxy-2-naphthoate (Compound CCXVIII)
Over a 15 minute period, 149 g. (2.7 moles) of ground potassium hydroxide is added to 180 g. (0.96 mole) of 1-hydroxy-2-naphthoic acid in 2.5 l. of dimethylformamide (during the course of which the temperature rises to 32° C.). The reaction mixture is stirred at 20°-25° C. for 16 hours and at 50° C. for 2 hours and cooled to 40° C. 387 g. (2.7 moles) of methyl iodide is added, and the reaction mixture is stirred at 40°-50° C. for 4 hours. 4 l. of saturated sodium chloride solution is added, and the mixture is extracted with diethyl ether. The diethyl ether extract is dried over anhydrous sodium sulfate and evaporated at reduced pressure to obtain the crude product as a light brown oil (255 g.).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-hydroxy-2-naphthoic acid | 0.96 mole | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | methyl iodide | 2.7 moles | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 1-methoxy-2-naphthoate | 255 g | COC1=C(C=CC2=CC=CC=C12)C(=O)OC | C13H12O3
